US04837349
N-(t-Butyldimethylsilyloxycarbonyl)-phenylalanine methyl ester
To a methylene chloride solution (1.0 ml) of N-t-butoxycarbonyl-L-phenylalanine methyl ester (139.5 mg, 0.5 mmol) and 2,6-lutidine (0.116 ml, 1.0 mmol), t-butyldimethylsilyltrifluoromethane sulfonate (TBDMSOTf) (0.172 ml, 0.75 mmol) was added dropwise at room temperature in a nitrogen atmosphere. After the mixture was stirred for 15 minutes, a saturated aqueous solution of ammonium chloride (2 ml) was added to quench the reaction and extraction with ether was conducted. The organic layer was dried over anhydrous magnesium sulfate and filtered. By distilling off the solvent, the titled compound was obtained in an amount of 186.8 mg.

reactant | N-t-butoxycarbonyl-L-phenylalanine methyl ester | 0.5 mmol, 139.5 mg | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=CC=C1)=O | C15H21NO4
reactant | 2,6-lutidine | 1.0 mmol, 0.116 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | t-butyldimethylsilyltrifluoromethane sulfonate | 0.75 mmol, 0.172 ml | [Si](C)(C)(C(C)(C)C)OS(=O)(=O)C(F)(F)F | C7H15F3O3SSi
reactant | ammonium chloride | 2 ml | [Cl-].[NH4+]
solvent | methylene chloride | 1.0 ml | C(Cl)Cl | CH2Cl2
product | N-(t-Butyldimethylsilyloxycarbonyl)-phenylalanine methyl ester | COC([C@@H](NC(=O)O[Si](C)(C)C(C)(C)C)CC1=CC=CC=C1)=O | C17H27NO4Si
